US08039450B2
A mixture of 4-fluoro-3-formylbenzonitrile (14.2 g, 96.0 mmol), 4-bromo-3-hydroxymethylphenol (19.4 g, 96 mmol), and potassium carbonate (15.2 g, 110 mmol) in N,N-dimethylformamide (200 mL) was stirred at 70° C. under nitrogen atmosphere for 2 h. The mixture was poured into ethyl acetate/water. The organic layer was washed with water twice and with brine, then dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by silica gel column (3:1 to 7:3 hexane/ethyl acetate) to give 4-[4-bromo-3-(hydroxymethyl)phenoxy]-3-formylbenzonitrile (26.0 g, 82%).

reactant | 4-fluoro-3-formylbenzonitrile | 96.0 mmol, 14.2 g | FC1=C(C=C(C#N)C=C1)C=O | C8H4FNO
reactant | 4-bromo-3-hydroxymethylphenol | 96 mmol, 19.4 g | BrC1=C(C=C(C=C1)O)CO | C7H7BrO2
reactant | potassium carbonate | 110 mmol, 15.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate water | C(C)(=O)OCC.O
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 4-[4-bromo-3-(hydroxymethyl)phenoxy]-3-formylbenzonitrile | 26.0 g, 82% | BrC1=C(C=C(OC2=C(C=C(C#N)C=C2)C=O)C=C1)CO | C15H10BrNO3
